US08349851B2
2-(2,2-Difluoro-2-(4-fluorophenyl)acetamido)-3-fluorobenzamide was prepared according to the procedure described in Example 32 for preparation of 2-(2,2-difluoro-2-(4-fluorophenyl)acetamido)-4-methoxybenzamide, substituting 2-amino-4-methoxybenzamide in Example 32 with 2-amino-3-fluorobenzamide. The product was purified on silica gel column using DCM/MeOH as eluent (20%); LC-MS (ESI) m/z 327 (M+H)+.

reactant | 2-(2,2-difluoro-2-(4-fluorophenyl)acetamido)-4-methoxybenzamide | FC(C(=O)NC1=C(C(=O)N)C=CC(=C1)OC)(C1=CC=C(C=C1)F)F | C16H13F3N2O3
reactant | 2-amino-4-methoxybenzamide | NC1=C(C(=O)N)C=CC(=C1)OC | C8H10N2O2
reactant | 2-amino-3-fluorobenzamide | NC1=C(C(=O)N)C=CC=C1F | C7H7FN2O
product | 2-(2,2-Difluoro-2-(4-fluorophenyl)acetamido)-3-fluorobenzamide | FC(C(=O)NC1=C(C(=O)N)C=CC=C1F)(C1=CC=C(C=C1)F)F | C15H10F4N2O2
